US06794395B1
(1) 1-acetyl-3-(1-hydroxy-1-phenyl-methylidene)-6-trifluoromethyl-2-indolinone
Prepared from 1-acetyl-6-trifluoromethyl-2-indolinone and benzoic acid

reactant | 1-acetyl-6-trifluoromethyl-2-indolinone | C(C)(=O)N1C(CC2=CC=C(C=C12)C(F)(F)F)=O | C11H8F3NO2
reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
product | 1-acetyl-3-(1-hydroxy-1-phenyl-methylidene)-6-trifluoromethyl-2-indolinone | C(C)(=O)N1C(C(C2=CC=C(C=C12)C(F)(F)F)=C(C1=CC=CC=C1)O)=O | C18H12F3NO3
